US06599890B1
Hydrogen chloride gas was bubbled through a cold (0° C.) solution of (2R,4R)-4-[2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-piperidine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester (420 mg, 0.8 mmol) for 10 minutes. After an additional 20 minutes the mixture was concentrated to provide (2R, 4R)-1-(4-methoxy-benzenesulfonyl)-4-(piperazine-1-carbonyl)-piperidine-2-carboxylic acid hydroxyamide hydrochloride as a colorless solid: Mass spectrum (atmospheric pressure chemical ionization; basic mode) m/z (M+H) 427, 366; 1H NMR (dimethyl sulfoxide-d6, 400 MHz, ppm) δ 10.70 (bd, 1 H, J=2.7 Hz), 9.06 (bs, 2 H), 8.84 (bs, 1 H), 7.70 (dd, 2 H, J=8.9, 2.9 Hz), 7.06 (dd, 2 H, J=8.9, 2.9 Hz); 4.42 (bs, 1 H), 3.80 (s, 3 H), 3.80-3.20 (m, 6 H), 3.04 (m, 4 H), 2.76 (m, 1 H), 1.79 (bd, 1 H, J=13.5 Hz), 1.52 (bd, 1 H, J=12.6 Hz), 1.32 (m, 1 H), 1.14 (m, 1H).

reactant | Hydrogen chloride | Cl | ClH
reactant | (2R,4R)-4-[2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-piperidine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.8 mmol, 420 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(NO)=O | C23H34N4O8S
product | (2R, 4R)-1-(4-methoxy-benzenesulfonyl)-4-(piperazine-1-carbonyl)-piperidine-2-carboxylic acid hydroxyamide hydrochloride | Cl.ONC(=O)[C@@H]1N(CC[C@H](C1)C(=O)N1CCNCC1)S(=O)(=O)C1=CC=C(C=C1)OC | InChI=1S/C18H26N4O6S.ClH/c1-28-14-2-4-15(5-3-14)29(26,27)22-9-6-13(12-16(22)17(23)20-25)18(24)21-10-7-19-8-11-21;/h2-5,13,16,19,25H,6-12H2,1H3,(H,20,23);1H/t13-,16-;/m1./s1
